US07217374B2
After adding 1 g of 1,4-dibromo-2-butene (available from Sigma-Aldrich Co.) and 3 g of sodium acetate (available from Wako Pure Chemical Industries, Ltd.) into ethanol, reflux was conducted at 80° C. for 1 hour, to obtain 1,4-diacetoxy-2-butene. 1,4-diacetoxy-2-butene was dissolved in 30 ml of ethanol, and 20 ml of an aqueous sodium hydroxide solution (1 mol/l) was added, to synthesize 2-butene-1,4-diol.

reactant | 1,4-dibromo-2-butene | 1 g | BrCC=CCBr | C4H6Br2
reactant | sodium acetate | 3 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,4-diacetoxy-2-butene | C(C)(=O)OCC=CCOC(C)=O | C8H12O4
